datasets/10k__Tet_Int.csv
SMILES Labelled
"CCCCCCN([C:20]1(OC(C([O:21]1)C1=CC=CC=C1)CC)[O-:10])C1=CC=CC=C1>>CCCCCCN([C:20](=[O:10])OC(C([O-:21])C1=CC=CC=C1)CC)C1=CC=CC=C1 10=20;20,21=21"
"C1=CC=CC=C1C1C(O[C:20](N1CCCCCC)([O-:10])[O:21]CCCCCC)CC>>C1=CC=CC=C1C1C(O[C:20](=[O:10])N1CCCCCC)CC.[O-:21]CCCCCC 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(C8=CC=CC=C8)[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C7=CC=CC=C7)C(C)[CH](C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"[H]C1C(C(O[C:20](N1CC)([O-:10])[O:21]CC)C1=CC=CC=C1)C>>[H]C1C(C(O[C:20](=[O:10])N1CC)C1=CC=CC=C1)C.[O-:21]CC 10=20;20,21=21"
"[H][S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C(CC)C(C8=CC=CC=C8)[S]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[O]C(CC)C(C8=CC=CC=C8)[S]2.[H][S:10][H] 21=20;20,10=10"
"[H][O+:10](C(C)C(C)[O]1)[C:20]1([NH:21][H])[O]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C(C)[O][C:20]([O]CC)=[NH+:21][H] 21=20;20,10=10"
"CCN([C:20]1(OC(C([O:21]1)C)CC)[O-:10])CC>>CCN([C:20](=[O:10])OC(C([O-:21])C)CC)CC 10=20;20,21=21"
"[H][NH+:10](C(CC)C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O][H].[Cl-]>>[Cl-].[H][NH:10]C(CC)C(C)C(C8=CC=CC=C8)[NH][C:20]([O][H])=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][O+:10](C(C)C([H])[O]1)[C:20]1([NH:21]C)[O][H].[Cl-]>>[Cl-].[H][O:10]C(C)C([H])[O][C:20]([O][H])=[NH+:21]C 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[O][CH]([H])[CH](C)C(C)[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]CC)[O][CH]([H])C(C)[CH](C)[NH]1 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21]C)[S]C(CC)C([H])[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S]C(CC)C([H])[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]CC)[O][CH](CC)C(C)[CH](C)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O][CH](CC)[CH](C)C(C)[NH]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H][O+:10](C(CC)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]CC)[NH]CC.[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])C(C8=CC=CC=C8)[O][C:20]([NH]CC)=[NH+:21]CC 21=20;20,10=10"
"[O-:21][C:20]1(C)[O+:10]([K])C(C)C([H])C1O>>[O:10]([K])C(C)C([H])C([C:20](C)=[O:21])O 21=20;20,10=10"
"[H][S+:10](C([H])C(C)C([H])[S]1)[C:20]1([O:21]C)[O]C.[Cl-]>>[Cl-].[H][S:10]C([H])C(C)C([H])[S][C:20]([O]C)=[O+:21]C 21=20;20,10=10"
"C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21]C)([NH]C8=CC=CC=C8)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[NH:10][H].C[NH+:21]=[C:20]([NH]C8=CC=CC=C8)[O]C7=CC=CC=C7 21=20;20,10=10"
"[O:20]=[C:21](OC)OCCCCCC.C[O:10][Na]>>C[O+:10]([Na])[C:21]([O-:20])(OC)OCCCCCC 10=21;21,20=20"
"CCCCCCC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CCCCCC)[H])CCCCCC>>CCCCCCC1C(C(O[C:20](=[O:10])N1CCCCCC)[H])CCCCCC.[O-:21]CCCCCC 10=20;20,21=21"
"C1(C(O[C:20]([O-:10])([O:21]C1C1=CC=CC=C1)OC)C)[H]>>C(C([O-:21])C1=CC=CC=C1)(C(O[C:20](=[O:10])OC)C)[H] 10=20;20,21=21"
"C[O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O][H])[S]C7=CC=CC=C7.[Cl-]>>[Cl-].C[O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O][H])[S]C7=CC=CC=C7 21=20;20,10=10"
"CCC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21][H])CC)CCCCCC>>CCC1C(C(O[C:20](=[O:10])N1CCCCCC)CC)CCCCCC.[O-:21][H] 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C([H])[NH]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21][H])[O]C(C7=CC=CC=C7)C([H])[NH]1 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([O:21]C)[O]C(C7=CC=CC=C7)C([H])[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O]C(C7=CC=CC=C7)C([H])[O]2.[H][O:10][H] 21=20;20,10=10"
"[H]N([C:20]1(OC(C(C([O:21]1)[H])[H])CCCCCC)[O-:10])C>>[H]N([C:20](=[O:10])OC(C(C([O-:21])[H])[H])CCCCCC)C 10=20;20,21=21"
"CCCCCC[O+:10]([Na])[C:21]([O-:20])(OC1=CC=CC=C1)OC1=CC=CC=C1>>[O:20]=[C:21](OC1=CC=CC=C1)OC1=CC=CC=C1.CCCCCC[O:10][Na] 20=21;21,10=10"
"C[NH+:10]([H])[C:20]1([NH:21][H])[O][CH]([H])C([H])[CH](C)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C)[O]2.C[NH:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21][H])[NH][CH](C7=CC=CC=C7)C(C)[CH]([H])[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C([H])[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H][O+:10](C(CC)C([H])C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])C(CC)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([O:21][H])[S][CH](CC)C(C)[CH]([H])[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH](CC)[CH](C)C([H])[O]2.CC[O:10][H] 21=20;20,10=10"
"[H][O+:10](C(CC)C(C)C([H])[O]1)[C:20]1([O:21][H])[S][H].[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)C([H])[O][C:20]([S][H])=[O+:21][H] 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C1=CC=CC=C1)CCCCCC.[O-:21]CCCCCC>>C1=CC=CC=C1C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CCCCCC)C1=CC=CC=C1)CCCCCC 21=20;20,10=10"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C7=CC=CC=C7)C(C)[CH]([H])[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C([H])[NH]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"[H][O:10]C(CC)C([H])C(CC)[O][C:20]([O][H])=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])C(CC)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O][H] 10=20;20,21=21"
